US04822787
To a suspension of sodium borohydride (0.1 g) in tetrahydrofuran (10 ml) was added boron trifluoride etherate (0.3 ml) with stirring at 0°-10° C. After 30 minutes, a solution of (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2- [(ureidocarbonylmethyl)oxymethyl]pyrrolidine (0.63 g) in tetrahydrofuran (5 ml) was added to the mixture at 0°-10° C. The mixture was stirred at the same condition for 2 hours and at ambient temperature for 15 hours. Methanol (5 ml) was added to the mixture at 0°-10° C. The mixture was stirred at ambient temperature for 3 hours and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (25 g) and eluted with a mixture of methanol and chloroform (2:98 V/V) to give (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (0.24 g).

reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 0.3 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2- [(ureidocarbonylmethyl)oxymethyl]pyrrolidine | 0.63 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(=O)NC(=O)N | C17H23N3O8S
reactant | Methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine | 0.24 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCCNC(=O)N | C17H25N3O7S
